US07692005B2
N-[4-(2-Oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide (1.15 g, 3.90 mmol) and ethyl formate (0.95 mL, 11.70 mmol) were dissolved in anhydrous ethanol (8.00 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (4.40 mL, 11.70 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 3 with dropwise addition of 1M HCl(aq). The dark orange precipitate that formed was filtered then re-dissolved in EtOH (25 mL). The ethanolic solution was made basic with the addition of 1 M NaOH(aq) (4 mL). The basic solution then was re-acidified to pH 1 with 1 M HCl(aq) (10 mL) causing the formation of a pale orange precipitate. This suspension was filtered yielding an orange solid as the pure N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide (0.852 g, 2.64 mmol, 68%).

reactant | N-[4-(2-Oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide | 3.90 mmol, 1.15 g | O=C1NC2=CC(=CC=C2C1)C(=O)C1=CC=C(C=C1)NC(C)=O | C17H14N2O3
reactant | ethyl formate | 11.70 mmol, 0.95 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 8.00 mL | C(C)O | C2H6O
solvent | ethanol | 11.70 mmol, 4.40 mL | C(C)O | C2H6O
product | N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-acetamide | 2.64 mmol, 0.852 g, 68% | OC=C1C(NC2=CC(=CC=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C18H14N2O4
